US09328110B2
A Parr hydrogenation vessel was charged with ethyl 6-(3-nitroquinolin-4-ylamino)hexanoate (14.4 g, 43.2 mmol), 10% palladium on carbon catalyst (1.0 g), and ethanol (250 mL); placed on a Parr shaker; and the system pressurized to 40 psi (2.7×105 Pa) hydrogen. After shaking for 15 hours, the reaction mixture was filtered through CELITE filter agent and concentrated under reduced pressure to provide ethyl 6-(3-aminoquinolin-4-ylamino)hexanoate as a dark oil (9.8 g) that was used directly in the next step without further purification. This step was repeated several times to provide material for the subsequent step.

reactant | ethyl 6-(3-nitroquinolin-4-ylamino)hexanoate | 43.2 mmol, 14.4 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC(=O)OCC | C17H21N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | ethyl 6-(3-aminoquinolin-4-ylamino)hexanoate | 9.8 g | NC=1C=NC2=CC=CC=C2C1NCCCCCC(=O)OCC | C17H23N3O2
